US04458072
145 g of (Z)-2-methoxyimino-3-oxo-butyric acid are dissolved in 1000 ml of alcohol-free anhydrous dichloromethane. 10 ml of 30% hydrobromic acid in glacial acetic acid are added to this solution. Then, a solution of 37.5 ml of bromine in 112.5 ml of dichloromethane are added dropwise during about 2 hours, the temperature of the mixture being held at 20°-25° C. by means of slight cooling. Now, in order to remove hydrogen bromide from the mixture, nitrogen is vigorously blown through. Subsequently, 250 g of ice, 250 ml of water and 2 l of ether are successively added. The aqueous phase is separated and discarded. The organic phase is washed with 250 ml of water and 250 ml of saturated sodium chloride solution, dried with sodium sulphate and evaporated in vacuo. There remains a brown oil which is crystallized from carbon tetrachloride. There is obtained almost colourless (Z)-4-bromo-2-methoxyimino-3-oxo-butyric acid.

reactant | (Z)-2-methoxyimino-3-oxo-butyric acid | 145 g | CO\N=C(/C(=O)O)\C(C)=O | C5H7NO4
reactant | hydrobromic acid | 10 ml | Br | BrH
reactant | bromine | 37.5 ml | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 112.5 ml | ClCCl | CH2Cl2
product | (Z)-4-bromo-2-methoxyimino-3-oxo-butyric acid | BrCC(/C(/C(=O)O)=N/OC)=O | C5H6BrNO4
